US06683061B1
5-[3-(4-Nitrophenoxy)-1-propynyl]-2′-deoxyuridine.
A solution of pre-dried 5-(3-hydroxy-1-propynyl)-2′-deoxyuridine Robins, M. J. et al., (1983) (565 mg, 2 mmol) in 40 mL of anhydrous THF under argon was treated with 4-nitrophenol (696 mg, 5 mmol), triphenylphosphine (787 mg, 3 mmol), and diisopropyl azodicarboxylate (590 L, 3 mmol), and the reaction mixture heated at 60° C. until the solution was clear, and then 1 h longer. The mixture was allowed to cool to 23° C. and then it was evaporated onto SiO2 and purified by chromatography using MeOH/CH2Cl2 as eluent to afford 107 mg (13%) of the desired ether product: mp 112-118° C. 1H NMR ((CD3)2SO) δ 11.65 (s, exchanges with D2O, 1, NH), 8.29 (s, 1, H6), 8.24 (d, J=9.3 Hz, 2, m-ArH), 7.23 (d, J=9.3 Hz, 2, o-ArH), 6.09 (pseudo-t, 1, H1′), 5.17 (s, 2, propargyl-CH2), 4.22 (m, 1, H3′), 3.80 (m, 1, H4′), 3.59 (m, 2, 5′-CH2), 2.13 (pseudo-t, 2, 2′-CH2). Low-resolution mass spectrum (DCI-NH3) on per-trimethylsilyated material, m/z 547 [M(TMS)2H+], 565 [M(TMS)2NH4+], 620 [M(TMS)3H+].

reactant | 5-(3-hydroxy-1-propynyl)-2′-deoxyuridine | OCC#CC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C12H14N2O6
reactant | 4-nitrophenol | 5 mmol, 696 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triphenylphosphine | 3 mmol, 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3 mmol, 590 L | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | NH3 | N | H3N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-[3-(4-Nitrophenoxy)-1-propynyl]-2′-deoxyuridine | [N+](=O)([O-])C1=CC=C(OCC#CC=2C(NC(N([C@H]3C[C@H](O)[C@@H](CO)O3)C2)=O)=O)C=C1 | C18H17N3O8
